US04072756
5-[4-(10,11-dihydro-5-dibenzo[a,d]-cycloheptenylidene)piperidino]-2-pentanone
9.2 g of sodium carbonate are added to a solution of 10 g of 4-(10,11-dihydro-5-dibenzo[a,d]cycloheptenylidene)piperidine in 100 cc of chloroform, a solution of 7.2 g of 5-bromo-2-pentanone in 50 cc of chloroform is then added dropwise within 20 minutes, and the mixture is subsequently boiled at reflux for 17 hours. After cooling, the precipitate is filtered off, the filtrate is extracted twice with water, dried over magnesium sulphate and concentrated by evaporation. The residue is filtered over a column of 170 g of silica gel. The fraction eluted with chloroform containing 1% of methanol is dissolved in acetone and acidifed with hydrogen chloride in ether. After the addition of more ether, the hydrochloride of the title compound crystallizes. M.P. 235°-238°.

reactant | sodium carbonate | 9.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(10,11-dihydro-5-dibenzo[a,d]cycloheptenylidene)piperidine | 10 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=C3CCNCC3 | C20H21N
reactant | 5-bromo-2-pentanone | 7.2 g | BrCCCC(C)=O | C5H9BrO
solvent | chloroform | 100 cc | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 cc | C(Cl)(Cl)Cl | CHCl3
product | 5-[4-(10,11-dihydro-5-dibenzo[a,d]-cycloheptenylidene)piperidino]-2-pentanone | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=C3CCN(CC3)CCCC(C)=O | C25H29NO
